US08623889B2
3-bromo-4-methoxypyridine
3-Bromo-4-fluoropyridine (253 mg, 1.44 mmol) was suspended in a solution of sodium methoxide in methanol (3.0 mL, 4.6 M, 14 mmol) at ambient temperature, the mixture stirred for 3 days, and then poured into aqueous citric acid (1M) and extracted twice into dichloromethane. The combined organic phases were washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil (108 mg, 40%) that was used without further purification. LCMS: M+H+=188 & 190.

reactant | 3-Bromo-4-fluoropyridine | 1.44 mmol, 253 mg | BrC=1C=NC=CC1F | C5H3BrFN
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 14 mmol, 4.6 M, 3.0 mL | CO | CH4O
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-bromo-4-methoxypyridine | 108 mg, 40% | BrC=1C=NC=CC1OC | C6H6BrNO
